US08703758B2
B) 2-chloro-6-fluoro-5-methoxy-1,3-benzothiazole
A suspension of copper(II) chloride (546 mg) and tert-butyl nitrite (0.600 mL) in acetonitrile (10 mL) was stirred at 50° C. for 20 min. To the reaction mixture was added a solution of 6-fluoro-5-methoxy-1,3-benzothiazol-2-amine (670 mg) in acetonitrile (10 mL), and the mixture was further stirred at 50° C. for 30 min. 1M Hydrochloric acid and saturated brine were added to the reaction mixture, and the insoluble material was filtered. The filtrate was extracted with ethyl acetate, the filtered insoluble material was dissolved in THF, and the solution was combined with the organic layer. The mixture was applied to silica gel column chromatography (ethyl acetate). The solvent was evaporated under reduced pressure and the obtained solid was washed with ethyl acetate/hexane to give the title compound (350 mg).

reactant | tert-butyl nitrite | 0.600 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 6-fluoro-5-methoxy-1,3-benzothiazol-2-amine | 670 mg | FC1=CC2=C(N=C(S2)N)C=C1OC | C8H7FN2OS
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
catalyst | copper(II) chloride | 546 mg | [Cu](Cl)Cl
product | 2-chloro-6-fluoro-5-methoxy-1,3-benzothiazole | 350 mg | ClC=1SC2=C(N1)C=C(C(=C2)F)OC | C8H5ClFNOS
